US06274536B1
3-Fluoro-5-chloro-2-pyridinecarboxylic Acid Ethyl Ester
An autoclave is charged with 31.4 g of 2,5-dichloro-3-fluoropyridine, 400 ml of dry ethanol, 27.8 ml of triethylamine and 3.5 g of palladium bis(triphenylphosphine) dichloride (PdCl2(PPh3)2) and then a pressure of 180 bars is applied with carbon monoxide. The mixture is maintained at 90° C. for 4 days. After cooling and releasing the pressure, a further 3.5 g of PdCl2(PPh3)2 are added, a pressure of 130 bars is applied with carbon monoxide, and the mixture is maintained at 90° C. for 3 days, after which it is cooled to 25° C., the pressure is released and the mixture is discharged. After concentration in vacuo, absorption from ethyl acetate onto silica gel is carried out. The silica gel is applied to a flash chromatography column (silica gel) and then eluted with n-hexanelethyl acetate 3/1. 24.3 g of the desired target compound having a melting point of 48-50° C. are obtained.

reactant | 2,5-dichloro-3-fluoropyridine | 31.4 g | ClC1=NC=C(C=C1F)Cl | C5H2Cl2FN
reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | carbon monoxide | [C]=O | CO
reactant | triethylamine | 27.8 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium bis(triphenylphosphine) dichloride | 3.5 g | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
catalyst | PdCl2(PPh3)2 | 3.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Fluoro-5-chloro-2-pyridinecarboxylic Acid Ethyl Ester | C(C)OC(=O)C1=NC=C(C=C1F)Cl | C8H7ClFNO2
